US07960409B2
(S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(2,2,2-trifluoroethoxy)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol
A solution of (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol (60 mg, 0.13 mmol) and sodium trifluoroethoxide (79 mg, 0.65 mmol) in DMF (3 mL) was stirred at 120° C. for 1.5 h. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with ethyl acetate/hexanes, 3:7) gave the title compound. MS (+ESI): 529 (M+H)+.

reactant | (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | 0.13 mmol, 60 mg | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)[C@](C(F)(F)F)(CC)O | C22H17ClF4N4O
reactant | sodium trifluoroethoxide | 0.65 mmol, 79 mg | FC(C[O-])(F)F.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(2,2,2-trifluoroethoxy)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)OCC(F)(F)F)C1=CC=C(C=C1)F)(F)F | C24H19F7N4O2
